Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
iodine
 
Attending: ___
 
Chief Complaint:
 L thalamic IPH with IVE
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Neurology Consult Note

Time/Date the patient was last known well: 21:15

GCS Score at the Scene: ----- [X] Unknown 
 - If unknown, GCS score at presentation to our ED: 8

ICH volume by ABC/2 method: 13.5 cc

ICH Score: 1 (13% mortality)

Pre-ICH mRS ___ social history for description): 3
 

HPI: 
Mr. ___ is a ___ year old man with metastatic colon
carcinoma, atrial fibrillation (on Coumadin), and prior stroke
(unknown details) who was found down in the bathroom by his
sister this morning at approximately 00:00, after last being 
seen
well at 21:15. He was taken to ___, where he was noted to
be alert and oriented. ___ demonstrated a left thalamic IPH
(approximately 2.5 x2 cm, extending 5 slices) with a
supratherapeutic INR of 4.55, prompting reversal with vitamin K,
FFP, and urgent transfer to ___.

En route, his mental status declined (only Ox1), and upon
arrival, he was noted to be obtunded and not following any
commands. Repeat head CT demonstrated evolving IPH (now 4.5 x 
3.6
cm, present on 9 slices). He was given K-Centra x1. 

Upon further clarification with his sister and healthcare proxy,
___, he had not been feeling well all day. He had several
bouts of diarrhea, which she attributed to his chemotherapy.
However, he was able to eat dinner this evening.  
 

 
Past Medical History:
- Metastatic colon cancer (known mets to lungs, kidneys)
- DM2
- Atrial fibrillation (on Coumadin)
- COPD
- Chronic venous stasis
 
Social History:
___
Family History:
 Father died of metastatic colon cancer; several
other family members with other types of cancer (breast, lung)
 
Physical Exam:
ADMISSION: 
PHYSICAL EXAMINATION 
 Vitals:  T: 98.5  HR: 80  BP: 189/90 -> 154/88  RR: 16 -> 24 
SaO2: 96% NC O2 -> 94% RA
 General: somnolent, does not respond to vocal or tactile 
stimuli
 HEENT: NCAT, cracked and bloodied lips
 ___: irregularly irregular; no murmurs appreciated 
 Pulmonary: CTAB, no crackles or wheezes 
 Abdomen: Soft, non-tender; palpable liver edge 2-3 cm below
costal margin
 Extremities: Warm, no edema; significant venous stasis changes
of skin

Neurologic Examination: 
 - Mental status: somnolent; squeezes examiner's hand with left
hand on command but otherwise does not follow any commands. 

 - Cranial Nerves: PERRL 2->1.5, sluggish. Rolls eyes away from
bright light. Does not regard or track. Eyes do not move from
midline with doll's head maneuver. + Corneal reflex in the left;
equivocal in the right. 

 - Sensorimotor: moves LUE antigravity spontaneously (briefly)
and squeezes  with left hand. LLE with minimal withdrawal to
noxious. RUE extensor to noxious; RLE triple flexes to noxious. 

 - Reflexes:  
    [Bic] [___] [Quad] [Gastroc] 
  L  2+     2+      2+       1 
  R  2+     2+      3+       1  
 Plantar response up-going bilaterally

==============================================
 
Pertinent Results:
Results: 
___ 03:46AM BLOOD WBC-8.4 RBC-4.36* Hgb-8.6* Hct-31.3* 
MCV-72* MCH-19.7* MCHC-27.5* RDW-17.4* RDWSD-44.8 Plt ___
___ 03:46AM BLOOD Neuts-79.7* Lymphs-8.7* Monos-7.9 Eos-2.0 
Baso-1.1* Im ___ AbsNeut-6.66* AbsLymp-0.73* AbsMono-0.66 
AbsEos-0.17 AbsBaso-0.09*
___ 03:46AM BLOOD ___ PTT-47.7* ___
___ 03:46AM BLOOD Glucose-141* UreaN-24* Creat-0.8 Na-142 
K-3.3 Cl-100 HCO3-29 AnGap-16
___ 03:46AM BLOOD ALT-<5 AST-13 AlkPhos-73 TotBili-0.3
___ 03:46AM BLOOD cTropnT-0.03*
___ 03:46AM BLOOD Albumin-3.2* Calcium-8.0* Phos-2.8 Mg-1.7
___ 09:50AM BLOOD Osmolal-309
___ 03:46AM BLOOD Digoxin-0.9
___ 03:56AM BLOOD ___ pO2-35* pCO2-50* pH-7.44 
calTCO2-35* Base XS-7 Intubat-NOT INTUBA
___ 03:56AM BLOOD Lactate-1.1

Imaging: 
CT Head ___: 
1. Interval significant increase in size of the left 
thalamic/medial temporal 
hemorrhage with mild surrounding edema, currently measuring up 
to 4.3 cm, 
compared with 2.4 cm previously, with extension of hemorrhage 
into the left 
lateral, third, and fourth ventricles. 
2. Increased rightward shift of midline structures.  New left 
uncal 
herniation. 
3. Increased compression of the third ventricle with mildly 
increased size of 
the right lateral ventricle, concerning for entrapment. 

CT Head ___: Preliminary 

 
Brief Hospital Course:
___ yo man, pmh of Afib on Coumadin, metastatic colon cancer, who 
was found to have L thalamic IPH with IVE

#Neuro: On admission, repeat NCHCT with expansion compared to 
OSH, so a repeat 6 hr NCHCT was obtained, which was slightly 
increased edema,  but overall stable. He was started on maximal 
medical therapy: Goal SBP <150, INR <1.4 (reversed in ED and 
OSH), and hyperosmolar therapy with 23.4% q 6 hr with q6 hr 
Na/Osm for goal Na 145-155, Osm 300-320. This was transitioned 
to 3% hypertonic saline and stopped on ___. Repeat ___ and MRI 
showed stable bleed with no other enhancing lesions. 

#Cards: Pt's home Coumadin was held and patient's BP was 
maintained below 150. For rate control of Afib, patient was 
started on home Diltiazem in short acting form. 

#Pulm: Upon admission, pt was noted on CXR to have pulmonary 
nodules, mediastinal lymphadenopathy and a large R pleural 
effusion (former findings reported to be chronic per outpt 
oncologist). He required increasing oxygen requirements and due 
to acute hypoxia when lying flat on ___ was intubated. 
Thoracentesis was performed on ___ for R pleural effusion with 
studies suggestive of exudate per Light's Criteria. Pleurex 
catheter drained 2.2L of fluid and was removed on ___. Of note, 
pt's pilot balloon was cut on ___ with resulting cuff leak and 
requiring repair. On ___ pt was extubated and due to sudden 
hypoxia in the evening was reintubated.

#ID: Pt was noted to have recurrent fevers w/ elevated WBC and 
CXR findings suggestive of PNA starting ___, initially treated 
w/ Ceftriaxone/Azithromycin for CAP coverage, then switched to 
Vancomycin, Cefepime, and Azithromycin for HCAP/Aspiration PNA 
coverage.

#IV Access: He had a portacath used as outpatient for chemo. 
Placement could not be confirmed with CXR, so  CT Chest was 
obtained. CT Chest confirmed port a cath placement and confirmed 
widening mediastinum (seen on CXR) was ___ adenopathy. 

Due to poor respiratory status with need for trach tube, family 
meeting was held with HCP. Per wishes, pt was made CMO on ___. 
Patient expired on ___.

 
Medications on Admission:
- Glucophage 1000 mg BID
- Diltiazem ER 240 mg qday 
- Digoxin 250 mcg qday 
- Glipizide 5 mg daily 
- Warfarin 5 mg daily 
*Unknown Chemo qweekly at ___ with Dr. ___ 

 
___ Medications:
N/A 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Hypertensive Left  Thalamic IPH with IVE, IVH
 
Discharge Condition:
Expired
 
Discharge Instructions:
N/A 
 
Followup Instructions:
___